US07705042B2
c) 1-[5-(1,1-Dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-2-nitro-phenyl]-4-methyl-piperidine
A mixture of 3-chloroperoxybenzoic acid (77 mg, 0.35 mmol, 77%) in 2 mL of DCM was added slowly to a solution of 1-[5-(3,6-dihydro-2H-thiopyran-4-yl)-2-nitro-phenyl]-4-methyl-piperidine (as prepared in the previous step, 50 mg, 0.16 mmol) in 2 mL of DCM at −78° C. under Ar. The mixture was stirred at −78° C. for 0.5 h, and then Warmed to RT. Treated with 2 mL of 10% Na2SO3 solution, the mixture was stirred vigorously for 5 min. The mixture was treated with 30 mL of EtOAc and 10 mL of H2O. The aqueous layer was separated and the organic layer was washed with saturated aq NaHCO3 solution (10 mL), H2O (10 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (0-2% EtOAc/DCM) gave 35 mg (64%) of the title compound as a yellow oil: 1H-NMR (CDCl3; 400 MHz): δ 7.77 (d, 1H, J=8.6 Hz), 7.00 (d, 1H, J=1.9 Hz), 6.88 (dd, 1H, J=8.6, 1.9 Hz), 5.93 (m, 1H), 3.83 (br s, 2H), 3.24-3.30 (m, 4H), 3.11-3.17 (m, 2H), 2.83 (ddd, 2H, J=12.0, 12.0, 2.3 Hz), 1.72 (dd, 2H, J=12.6, 2.3 Hz), 1.53 (m, 1H), 1.35-1.47 (m, 2H), 1.00 (d, 3H, J=6.3 Hz). Mass spectrum (ESI, m/z): Calcd. for C17H22N2O4S, 351.1 (M+H), found 351.0.

reactant | 3-chloroperoxybenzoic acid | 0.35 mmol, 77 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-[5-(3,6-dihydro-2H-thiopyran-4-yl)-2-nitro-phenyl]-4-methyl-piperidine | S1CCC(=CC1)C=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C17H22N2O2S
reactant | Na2SO3 | 2 mL | [O-]S(=O)[O-].[Na+].[Na+]
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mL | O | H2O
product | 1-[5-(1,1-Dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-2-nitro-phenyl]-4-methyl-piperidine | 35 mg, 64% | O=S1(CCC(=CC1)C=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-])=O | C17H22N2O4S
